US04940710
7-[3-(5-Chloro-2-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 2.424 g of 2-(5-chloro-2-thienyl)piperazine and 1.076 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 12 ml of pyridine was refluxed under argon for 24 hours and then cooled. The solid was collected, washed with methanol and ether, then dried giving 320 mg of the desired product, mp 232°-234° C.

reactant | 2-(5-chloro-2-thienyl)piperazine | 2.424 g | ClC1=CC=C(S1)C1NCCNC1 | C8H11ClN2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.076 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 7-[3-(5-Chloro-2-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 320 mg | ClC1=CC=C(S1)C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C20H19ClFN3O3S
